US04005099
In the manner given in Example 4, N-[[1[3-chloro-2-(p-fluorobenzoyl)phenyl]-2-[(dimethylamino)methyl]-4-methylimidazol-5-yl]methyl]phthalimide in ethanol is heated with hydrazine hydrate to give 7-chloro-6-(p-fluorophenyl)-1-[(dimethylamino)methyl]-3-methyl-4H-imidazo[1,5-a][1,4]benzodiazepine.

reactant | N-[[1[3-chloro-2-(p-fluorobenzoyl)phenyl]-2-[(dimethylamino)methyl]-4-methylimidazol-5-yl]methyl]phthalimide | ClC=1C(=C(C=CC1)N1C(=NC(=C1CN1C(C=2C(C1=O)=CC=CC2)=O)C)CN(C)C)C(C2=CC=C(C=C2)F)=O | C29H24ClFN4O3
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 7-chloro-6-(p-fluorophenyl)-1-[(dimethylamino)methyl]-3-methyl-4H-imidazo[1,5-a][1,4]benzodiazepine | ClC1=CC=CC2=C1C(=NCC=1N2C(=NC1C)CN(C)C)C1=CC=C(C=C1)F | C21H20ClFN4
